US07405305B2
3-[1-(4-bromobutyl)-1H-indol-3-yl]-4-(4-methoxybenzofur-7-yl)pyrrole-2,5-dione
Dissolve 3-[1-(4-hydroxybutyl)-1H-indol-3-yl]-4-(4-methoxybenzofur-7-yl)pyrrole-2,5-dione (0.1 g, 0.232 mmol) in 10 mL dichloromethane. Add carbon tetrabromide (0.077 g, 1 equivalent) and triphenyl phosphine (0.061 g, 1 equivalent). Stir for 10 min, add another equivalent of both reagents. Stir 10 min then dilute with dichloromethane and wash with water followed by brine. Dry over magnesium sulfate then filter and concentrate. Purification by column chromatography (2% methanol: dichloromethane) affords the title compound. MS (ES, m/z): 493.0 (M−1).

reactant | 3-[1-(4-hydroxybutyl)-1H-indol-3-yl]-4-(4-methoxybenzofur-7-yl)pyrrole-2,5-dione | 0.232 mmol, 0.1 g | OCCCCN1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CC=C(C=2C=COC21)OC)=O)=O | C25H22N2O5
reactant | carbon tetrabromide | 0.077 g, 1 equivalent | C(Br)(Br)(Br)Br | CBr4
reactant | triphenyl phosphine | 0.061 g, 1 equivalent | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 3-[1-(4-bromobutyl)-1H-indol-3-yl]-4-(4-methoxybenzofur-7-yl)pyrrole-2,5-dione | BrCCCCN1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CC=C(C=2C=COC21)OC)=O)=O | C25H21BrN2O4
